US07713979B2
Combine 3-(4-bromo-2-chloro-benzyl)-1-cyclohex-3-enyl-pyrrolidin-2-one (370 mg, 1.01 mmol), 3-pyridine boronic acid (372 mg, 3.03 mmol), tetrakis(triphenylphosphine)palladium(0) (116 mg, 0.10 mmol), Na2CO3 (2.14 g, 20.2 mmols), water (1.5 mL), 1,2-dimethoxy-ethane (8 mL) and heat at 80° C. for 20 hours. Cool the reaction mixture to room temperature, add saturated aqueous NaHCO3 (5 mL) and extract with EtOAc (3×10 mL). Dry the organic layer over anhydrous Na2SO4, remove the solvent and purify the residue by chromatography over silica gel eluting with EtOAc in hexane (0 to 100%) to obtain 3-(2-chloro-4-pyridin-3-yl-benzyl)-1-cyclohex-3-enyl-pyrrolidin-2-one as a clear oil (60 mg, 16%): MS (ES+) m/z=367 (M+H)+.

reactant | 3-(4-bromo-2-chloro-benzyl)-1-cyclohex-3-enyl-pyrrolidin-2-one | 1.01 mmol, 370 mg | BrC1=CC(=C(CC2C(N(CC2)C2CC=CCC2)=O)C=C1)Cl | C17H19BrClNO
reactant | 3-pyridine boronic acid | 3.03 mmol, 372 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 20.2 mmols, 2.14 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxy-ethane | 8 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | 3-(2-chloro-4-pyridin-3-yl-benzyl)-1-cyclohex-3-enyl-pyrrolidin-2-one | 60 mg, 16% | ClC1=C(CC2C(N(CC2)C2CC=CCC2)=O)C=CC(=C1)C=1C=NC=CC1 | C22H23ClN2O
